US06174889B1
(1-Benzyl-1H-indazol-5-yl)-(6-benzyloxy-pyrido[3,4-d]pyrimidin-4-yl)-amine hydrochloride
6-Benzyloxy-4-chloro-pyrido[3,4-d]pyrimidine (0.54 g, ca. 2 mmol) and 5-amino-1-benzyl-1H-indazole (0.458 g, 2.05 mmol) were reacted according to Procedure A to give the title compound as a yellow solid (0.740 g, 1.50 mmol, 75%); δH [2H6]DMSO 11.50(1H,s), 9.00(1H,s), 8.77(1H,s), 8.16-8.33 (3H,m), 7.83(1H,d), 7.71 (1H,dd), 7.13-7.58 (10H,m), 5.69(2H,s), 5.55(2H,s); m/z (M+1+) 459.

reactant | 6-Benzyloxy-4-chloro-pyrido[3,4-d]pyrimidine | ca. 2 mmol, 0.54 g | C(C1=CC=CC=C1)OC1=CC2=C(N=CN=C2Cl)C=N1 | C14H10ClN3O
reactant | 5-amino-1-benzyl-1H-indazole | 2.05 mmol, 0.458 g | NC=1C=C2C=NN(C2=CC1)CC1=CC=CC=C1 | C14H13N3
product | (1-Benzyl-1H-indazol-5-yl)-(6-benzyloxy-pyrido[3,4-d]pyrimidin-4-yl)-amine hydrochloride | 1.50 mmol, 0.740 g, 75% | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)OCC2=CC=CC=C2 | InChI=1S/C28H22N6O.ClH/c1-3-7-20(8-4-1)17-34-26-12-11-23(13-22(26)15-32-34)33-28-24-14-27(29-16-25(24)30-19-31-28)35-18-21-9-5-2-6-10-21;/h1-16,19H,17-18H2,(H,30,31,33);1H
